US07452880B2
2,4-Difluorophenol (517 mg, 4 mmol) was placed in a 10 mL microwave reactor tube under nitrogen and cooled in an ice bath. Potassium t-butoxide (4 mL of 1.0 M solution in THF) was added dropwise, and the solution was stirred for five minutes at 0° C. The reaction mixture was warmed to room temperature, and 6-chloro-3-(2-chloro-phenyl)-1H-pyrazolo[3,4-b]pyridine (350 mg, 1.33 mmol) was added in one portion. The reaction was then heated to 160° C. via microwave for nine hours. The reaction mixture was cooled and partitioned between water and ethyl acetate. The organic phase was washed with brine, followed by water, and then dried over MgSO4. The solvent was removed under reduced pressure, and the residue was eluted through a FLASH column using 0.5% MeOH in methylene chloride. Solvent was removed, and the residue was recrystallized from methylene chloride/hexanes to afford 78 mg of 3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyridine as a white solid. Mass Spec. M+H=358.

reactant | 2,4-Difluorophenol | 4 mmol, 517 mg | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | Potassium t-butoxide | 1.0 M, 4 mL | CC(C)([O-])C.[K+]
reactant | 6-chloro-3-(2-chloro-phenyl)-1H-pyrazolo[3,4-b]pyridine | 1.33 mmol, 350 mg | ClC1=CC=C2C(=N1)NN=C2C2=C(C=CC=C2)Cl | C12H7Cl2N3
product | 3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyridine | 78 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=CC=C21)OC2=C(C=C(C=C2)F)F | C18H10ClF2N3O
